US05180726
9 g of 1-(4-bromobutyl)-2-pyrrolidinone and 7.6 g of 1-[6-(trifluoromethyl)-2-pyridinyl]-piperazine were mixed with 100 ml of butanol. 4.3 g of sodium carbonate were added, and the mixture is refluxed for 3 hours. The precipitate is filtered and washed with butanol, and the filtrate is then evaporated. The residue was dissolved in dichloromethane, washed with water, dried over anhydrous magnesium sulfate, after which the solvent was evaporated to obtain 12.5 g of 1-[4-[4-[6-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl]-butyl]-2-pyrrolidinone. To make the monofumarate, the free base was mixed with 3.9 g of fumaric acid in absolute ethanol. The resulting substance was recrystallized twice from absolute ethanol, after which 7.8 g (43.6% yield) of 1-[4-[4-[6-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl]butyl]-2pyrrolidinone. (E)-2-butenedioate (1:1) salt were obtained. M.p. 173° C.

reactant | 1-(4-bromobutyl)-2-pyrrolidinone | 9 g | BrCCCCN1C(CCC1)=O | C8H14BrNO
reactant | 1-[6-(trifluoromethyl)-2-pyridinyl]-piperazine | 7.6 g | FC(C1=CC=CC(=N1)N1CCNCC1)(F)F | C10H12F3N3
reactant | sodium carbonate | 4.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | butanol | 100 ml | C(CCC)O | C4H10O
product | 1-[4-[4-[6-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl]-butyl]-2-pyrrolidinone | 12.5 g | FC(C1=CC=CC(=N1)N1CCN(CC1)CCCCN1C(CCC1)=O)(F)F | C18H25F3N4O
